US07723378B2
To a solution of 4-chlorosulfonylbenzoic acid (5.8 g, 25.2 mmol) in DCM (200 mL), a solution of methylamine (52.15 mL, 2 M in THF) is added. The mixture is stirred overnight at rt before the solvent is evaporated. The residue is dissolved in sat. aq. NH4Cl solution and extracted with EA. The organic extract is washed with water, dried over MgSO4, filtered and the solvent of the filtrate is evaporated to give 4-methylsulfamoyl-benzoic acid (3.77 g) as a white solid; LC-MS: tR=0.64 min.

reactant | 4-chlorosulfonylbenzoic acid | 25.2 mmol, 5.8 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | methylamine | 2 M, 52.15 mL | CN | CH5N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-methylsulfamoyl-benzoic acid | 3.77 g | CNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H9NO4S
